US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-(N,N-dimethylaminocarbonyl)benzamide
4-(N,N-Dimethylaminocarbonyl)benzoic acid (100 mg, 0.54 mmol; described in: U.S. Pat. No. 3,607,918, 1971) was dissolved in thionyl chloride (5 mL). When the acid was dissolved, the excess of thionyl chloride was evaporated in vacuo, the residue was treated with toluene and again the solvent was removed in vacuo. The crude acid chloride was dissolved in methylene chloride (5 mL) and added dropwise to an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazine-1-yl)-1,2,3,4-tetrahydronaphthalene (120 mg, 0.49 mmol) and triethylamine (100 μL, 0.73 mmol) in methylene chloride (20 mL). After the addition, the reaction was allowed to stir at ambient temperature for 15 min and was then washed with dilute aqueous sodium hydrogen carbonate. The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using using chloroform/methanol/concentrated ammonium hydroxide (95:4:0.5) as the eluent. Yield: 160 mg (79%) of the title compound as white foam: [α]21D -30° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 420 (10, M+).

reactant | 4-(N,N-Dimethylaminocarbonyl)benzoic acid | CN(C(=O)C1=CC=C(C(=O)O)C=C1)C | C10H11NO3
reactant | (R)-2-amino-8-(4-methylpiperazine-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.49 mmol, 120 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 0.73 mmol, 100 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-(N,N-dimethylaminocarbonyl)benzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)C(=O)N(C)C)=O | C25H32N4O2
